US05354730
A mixture of 5-amino-6-fluoro-3-isopropyl-2(3H)-benzothiazolone (2.1 g), N,N-diethyianiline (1.5 g) and methyl chloroformate (1.0 g) was dissolved in 1,2-dichloroethane (10 g), and the resultant mixture was heated under reflux for 3 hours. After cooling, the reaction mixture was washed with water, and the organic layer was concentrated. The residue was washed with methanol to give 6-fluoro-5-methoxycarbonylamino -3-isopropyl-2(3H)-benzothiazolone (2.1 g).

reactant | 5-amino-6-fluoro-3-isopropyl-2(3H)-benzothiazolone | 2.1 g | NC=1C(=CC2=C(N(C(S2)=O)C(C)C)C1)F | C10H11FN2OS
reactant | N,N-diethyianiline | 1.5 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | methyl chloroformate | 1.0 g | ClC(=O)OC | C2H3ClO2
solvent | 1,2-dichloroethane | 10 g | ClCCCl | C2H4Cl2
product | 6-fluoro-5-methoxycarbonylamino -3-isopropyl-2(3H)-benzothiazolone | 2.1 g | FC1=CC2=C(N(C(S2)=O)C(C)C)C=C1NC(=O)OC | C12H13FN2O3S
